US09359359B2
To a solution of methyl 3-oxopentanoate (3 g, 23.1 mmol) in toluene (30 mL) was added ethane-1,2-diol (3 mL, 70.2 mmol) and p-toluenesulfonic acid (500 mg, 2.91 mmol), the resulting mixture was stirred at 120° C. overnight. Then the mixture was concentrated and partitioned between ethyl acetate and aqueous saturated sodium bicarbonate solution. The phases were separated and the aqueous layer was extracted with ethyl acetate. The combined organic phase was washed with brine and dried over sodium sulfate; then it was filtered and concentrated to give methyl 2-(2-ethyl-1,3-dioxolan-2-yl)acetate (1.7 g, 42.5%) as yellow oil which was used without purification. Product tlc [petroleum ether/ethyl acetate (15:1) developed with iodine, Rf 0.6]

reactant | methyl 3-oxopentanoate | 23.1 mmol, 3 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | ethane-1,2-diol | 70.2 mmol, 3 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 2.91 mmol, 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(2-ethyl-1,3-dioxolan-2-yl)acetate | 1.7 g, 42.5% | C(C)C1(OCCO1)CC(=O)OC | C8H14O4
